### PR TITLE
bitadd is equivalent to BitVector addition

### PR DESCRIPTION
**Pull request by mhk119**
In this PR, we prove a bit-blasting theorem for addition. This depends on #314. I copied the changes in #314 and pasted them manually, but once that gets merged, the number of changes will decrease. The only real additions happen in `Std.Data.BitVec.Bitblast`.

### CODE REVIEW

File: Std/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+                 <;> simp [bit_val, toNat, @ofBits_succ _ i 1, two_pow_succ, hx, hy, hc,
+                           ofBits, Nat.add_comm, Nat.add_assoc]
+
+theorem bitwise_add_eq_add (x y : Nat) : bitwise_add x y i = (x + y) % 2 ^ i := by
+  rw [Nat.add_mod, bitwise_add_eq_add_base]
+  cases i
+  · simp [mod_one, ofBits]
+  · simp [bitwise_add, Nat.mod_eq_of_lt ofBits_lt]
+
+theorem BV_add {x y : BitVec w} : bitwise_add (x.toNat) y.toNat w = (x + y).toNat := by
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:120]:
```suggestion
theorem bitwise_add_toNat {x y : BitVec w} : bitwise_add x.toNat y.toNat w = (x + y).toNat := by
```

File: Std/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
+/-
+Copyright (c) 2023 by the authors listed in the file AUTHORS and their
+institutional affiliations. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Harun Khan, Abdalrhman M Mohamed
+-/
+import Std.Data.BitVec.Basic
+import Std.Data.Nat.Lemmas
+import Std.Data.Bool
+
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:10]: Please add a module doc `/-! # ... -/` explaining the contents of this file.

File: Std/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+  rw [Nat.pow_add, Nat.pow_one, Nat.mul_assoc]
+  simp
+
+theorem testBit_two_pow_mul_toNat_add {n w b} (h : n < 2 ^ w) :
+    testBit (2 ^ w * (bit b 0) + n) w = b := by
+  simp only [testBit, shiftRight_eq_div_pow]
+  rw [Nat.add_comm, add_mul_div_left _ _ (two_pow_pos _), Nat.div_eq_of_lt h, Nat.zero_add]
+  cases b <;> simp
+
+@[simp] theorem toNat_eq_bif {b: Bool} : cond b 1 0 = toNat b := by simp [cond, toNat]
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:34]:
```suggestion
@[simp] theorem cond_eq_toNat {b: Bool} : cond b 1 0 = toNat b := by simp [cond, toNat]
```

File: Std/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+
+theorem testBit_two_pow_mul_add {n b w i} (h : i < w) :
+    Nat.testBit (2 ^ w * b + n) i = Nat.testBit n i := by
+  simp only [testBit, shiftRight_eq_div_pow, bodd_eq_bodd_iff]
+  rw [← Nat.add_sub_of_le (succ_le_of_lt h), Nat.succ_eq_add_one, Nat.add_assoc]
+  rw [Nat.pow_add, Nat.add_comm, Nat.mul_assoc, add_mul_div_left _ _ (two_pow_pos _), add_mod]
+  rw [Nat.pow_add, Nat.pow_one, Nat.mul_assoc]
+  simp
+
+theorem testBit_two_pow_mul_toNat_add {n w b} (h : n < 2 ^ w) :
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:28]:
```suggestion
theorem testBit_two_pow_mul_bit_add {n w b} (h : n < 2 ^ w) :
```

File: Std/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+  simp only [testBit, shiftRight_eq_div_pow]
+  rw [Nat.add_comm, add_mul_div_left _ _ (two_pow_pos _), Nat.div_eq_of_lt h, Nat.zero_add]
+  cases b <;> simp
+
+@[simp] theorem toNat_eq_bif {b: Bool} : cond b 1 0 = toNat b := by simp [cond, toNat]
+
+theorem shiftRight_eq_testBit (x i : Nat) : (x >>> i) % 2 = toNat (testBit x i) := by
+  simp [Nat.testBit, Nat.mod_two_of_bodd, toNat_eq_bif]
+
+theorem div_add_mod_two_pow (m n : Nat) : n = 2 ^ m * n >>> m + n % (2 ^ m):= by
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:39]:
```suggestion
theorem div_add_mod_two_pow (m n : Nat) : n = 2 ^ m * n >>> m + n % (2 ^ m) := by
```
Should have shiftRight rather than div in its name!

File: Std/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+
+/-! ### Addition -/
+
+/-- Carry function for bitwise addition. -/
+def bitwise_carry (x y : Nat) : Nat → Bool
+  | 0     => false
+  | i + 1 => (x.testBit i && y.testBit i) || ((x.testBit i ^^ y.testBit i) && bitwise_carry x y i)
+
+/-- Bitwise addition implemented via a ripple carry adder. -/
+@[simp] def bitwise_add (x y i : Nat) :=
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:99]: Are you sure you want `@[simp]` here? Usually it is a bad idea to just let definitions fall apart anytime someone mentions `simp` nearby!

File: Std/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+  x % 2 ^ (i + 1) = 2 ^ i * toNat (Nat.testBit x i) + x % (2 ^ i):= by
+  have h1 := div_add_mod_two_pow i x
+  rw [←div_add_mod (x >>> i) 2, Nat.mul_add, ←Nat.mul_assoc, ←pow_succ, shiftRight_eq_testBit] at h1
+  have h2 := Eq.trans (div_add_mod_two_pow (i + 1) x).symm h1
+  rw [shiftRight_succ, succ_eq_add_one, Nat.add_assoc] at h2
+  exact Nat.add_left_cancel h2
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit the number of bits `i`.  It is
+almost always specialized  `i = w`; the length of the binary representation.
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:52]: Garbled? "on each bit the number of bits" seems to be missing something (mention of `z`?)?

Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:52]:
```suggestion
almost always specialized to `i = w`, the length of the binary representation.
```

File: Std/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -0,0 +1,122 @@
...
+This is an alternative to using `List` and is used to define bitadd, bitneg, bitmul etc.-/
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:53]:
```suggestion
This is an alternative to using `List` and is used to define bitadd, bitneg, bitmul etc.-/
```
What are these: bitadd, bitneg, bitmul?

File: Std/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -0,0 +1,122 @@
...
+-/
+import Std.Data.BitVec.Basic
+import Std.Data.Nat.Lemmas
+import Std.Data.Bool
+
+namespace Std
+open Nat Bool
+
+/-! ### Preliminaries -/
+
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:15]: Most of this section should be moved to earlier files.

File: Std/Data/BitVec/Bitblast.lean (hunk 7 above)
Comment (mhk119) [reply Std/Data/BitVec/Bitblast.lean]: whoops, fixed.

File: Std/Data/BitVec/Bitblast.lean (hunk 8 above)
Comment (mhk119) [reply Std/Data/BitVec/Bitblast.lean:53]: These are bitblasting operations. I renamed `bitwise_add` to `bitadd` for consistency. The other operations can be found in the file below and we plan to PR them later. 
[ex (1).pdf](https://github.com/leanprover/std4/files/13314290/ex.1.pdf)

File: Std/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (mhk119) [reply Std/Data/BitVec/Bitblast.lean]: I see, in every use case when I want to `unfold` the definition I want to go directly to unfolding `ofBits` too (i.e. the intermediate definition isn't useful). Perhaps, there's another way to automatically unfold `ofBits` too whenever I want to unfold without doing `simp only [bitadd, ofBits]`?

File: Std/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -0,0 +1,136 @@
...
+  rw [shiftRight_succ, succ_eq_add_one, Nat.add_assoc] at h2
+  exact Nat.add_left_cancel h2
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit and the number of bits `i`.  It is
+almost always specialized to `i = w`, the length of the binary representation.
+This is an alternative to using `List` and is used to define bitadd, bitneg, bitmul etc.-/
+def ofBits (f : Nat → Bool) (z : Nat) : Nat → Nat
+  | 0 => z
+  | i + 1 => ofBits f (z.bit (f i)) i
```
Comment (eric-wieser) [inline Std/Data/BitVec/Bitblast.lean:70]: This has undergone a fair amount of review in Mathlib, but it seems the review there has been discarded and we've reverted back to the original version. The suggestion there was to use
```suggestion
def ofBits {z : Nat} (f : Fin z→ Bool) : Nat := sorry
```

**Comment by joehendrix** [comment]
I'm going to close this.  The author's work was appreciated and adapted into #366.
